US06001997
Phosphorus pentachloride (754 mg, 3.62 mmol) in dichloromethane (19 ml) was added to 4-methoxybenzyl (6R,7R)-3-(5-methyltetrahydrofuran-2-yl)-7-phenylacetamidoceph-3-em-4-carboxylate (containing some of the Δ2-isomer) (1.26 g, 2.41 mmol) and N-methylmorpholine (531 μl, 4.83 mmol) in dichloromethane (15 ml) at -25° C. The reaction was stirred at -10±5° C. for 45 min., then methanol (5 ml) was added, and stirring was continued for 45 min. at room temperature. Water (10 ml) was then added, and the mixture vigorously stirred for a further 1 h. After evaporation of the dichloromethane in vacuo, the pH of the aqueous residue was adjusted to 7 by the addition of ammonium hydroxide in the presence of ethyl acetate. The mixture was extracted with ethyl acetate (x2), dried and concentrated in vacuo. The residue was purified by chromatography on silica gel eluting with 30, 50, 70, 80 and 100% ethyl acetate in hexane yielding 4-methoxybenzyl (6R,7R)-7-amino-3-[(5S,2S)-5-methyltetrahydrofuran-2-yl)ceph-3-em-4-carboxylate (310 mg, 32%) as a pale yellow foam; (Found: M+, 404.1394. C20H24N2O5S requires M+ 404.1406); νmax (CH2Cl2) 3412, 1776, 1721, 1613, 1516 and 1393 cm-1 ; δH (CDCl3, 250 MHz), 1.24 (3 H, d, J 5.8 Hz), 1.48 (1 H, m), 1.69 (1 H, m), 2.02 (3 H, m, 2 H exch.), 2.25 (1 H, m), 3.45 and 3.60 (2 H, ABq, J 17.7 Hz), 3.78 (3 H, s), 3.98 (1 H, m), 4.88 (1 H, d, J 5.0 Hz), 4.93-5.04 (2 H, m), 5.17 (2 H, s), 6.87 (2 H, d, J 8.6 Hz), 7.32 (2 H, d, J 8.6 Hz).

reactant | Phosphorus pentachloride | 3.62 mmol, 754 mg | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 4-methoxybenzyl (6R,7R)-3-(5-methyltetrahydrofuran-2-yl)-7-phenylacetamidoceph-3-em-4-carboxylate | CC1CCC(O1)C=1CS[C@H]2N(C1C(=O)OCC1=CC=C(C=C1)OC)C([C@H]2NC(CC2=CC=CC=C2)=O)=O | C28H30N2O6S
reactant | N-methylmorpholine | 4.83 mmol, 531 μl | CN1CCOCC1 | C5H11NO
reactant | methanol | 5 ml | CO | CH4O
solvent | dichloromethane | 19 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | Water | 10 ml | O | H2O
product | 4-methoxybenzyl (6R,7R)-7-amino-3-[(5S,2S)-5-methyltetrahydrofuran-2-yl)ceph-3-em-4-carboxylate | 310 mg, 32% | N[C@H]1[C@@H]2N(C(=C(CS2)[C@H]2O[C@H](CC2)C)C(=O)OCC2=CC=C(C=C2)OC)C1=O | C20H24N2O5S
